US04596870
1-(4-Methoxyphenylsulphenyl)methyl-5-chloropyrimidin-2-one
The title compound was prepared from 5-chloropyrimidin-2-one hydrochloride (10 mmol) and 1-chloroethylthio-4-methoxy benzene [see Preparation 1](10 mmol) in a manner similar to that described in Example 2. The reaction time was 2 h. Yield: 2.46 g (87%) of the N- and O-isomers in the ratio 7:5. The N-isomer was isolated by its lower solubility in methanol; m.p. 140° C. (MeOH). (Found C41.23; H4.00 Calc. for C12H11ClN2O2S: C50.97; H3.93) 1H NMR (DMSO-d6) 3.77 (OMe), 5.12 (CH2), 6.8-7.4 (Ph), 7.90 and 8.56 (H-4 and H-6, respectively, J 4 Hz). IR (KBr): 1660 cm-1 (CO. MS (70 eV, m/z % rel. int.)]: 282/284 (5/2,M), 143/145 (100/33).

reactant | 5-chloropyrimidin-2-one hydrochloride | 10 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | 1-chloroethylthio-4-methoxy benzene | 10 mmol | ClC(C)SC1=CC=C(C=C1)OC | C9H11ClOS
reactant | KBr | [K+].[Br-]
solvent | methanol | CO | CH4O
product | 1-(4-Methoxyphenylsulphenyl)methyl-5-chloropyrimidin-2-one | COC1=CC=C(C=C1)SCN1C(N=CC(=C1)Cl)=O | C12H11ClN2O2S
